US07560471B2
This compound was prepared following the procedure described in example 1, part D, starting with 5.5 g (0.02 mol) of 4-(1H-indol-3-yl)-piperidine-carboxylic acid ethyl ester and 2.3 ml (0.0233 mol) of 1-bromo-2-methoxyethane. The reaction mixture was stirred at room temperature for 24 h and after standard work-up, 6.5 g (98% of yield) of 4-[1-(2-methoxyethyl)-1H-indol-3-yl]-piperidine-1-carboxylic acid ethyl ester were obtained.

reactant | 4-(1H-indol-3-yl)-piperidine-carboxylic acid ethyl ester | 0.02 mol, 5.5 g | C(C)OC(=O)N1CCC(CC1)C1=CNC2=CC=CC=C12 | C16H20N2O2
reactant | 1-bromo-2-methoxyethane | 0.0233 mol, 2.3 ml | BrCCOC | C3H7BrO
product | 4-[1-(2-methoxyethyl)-1H-indol-3-yl]-piperidine-1-carboxylic acid ethyl ester | 6.5 g, 98% | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=CC=CC=C12)CCOC | C19H26N2O3
